************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: SRDFFNRQX1
* View Name:     schematic
* Netlisted on:  Jun  4 07:50:53 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VDD:P
+        ExtVDD:P
+        VSS:G
+        ExtVSS:G

*.PIN VDD
*+    ExtVDD
*+    VSS
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    SRDFFNRQX1
* View Name:    schematic
************************************************************************

.SUBCKT SRDFFNRQX1 CKN D ExtVDD Q RN RT SE SI VDD VSS
*.PININFO CKN:I D:I ExtVDD:I RN:I RT:I SE:I SI:I VDD:I VSS:I Q:O
MNM3 net0134 qbint VSS VSS g45n1svt m=1 l=45n w=145n
MNM2 n35g RT net0134 VSS g45n1svt m=1 l=45n w=145n
MNM1 RTb RT VSS VSS g45n1svt m=1 l=45n w=145n
MNM0 n35g RTb n35 VSS g45n1svt m=1 l=45n w=145n
Mmn13 n2 SI VSS VSS g45n1svt m=1 l=45n w=145n
Mmn14 Db SE n2 VSS g45n1svt m=1 l=45n w=145n
Mmn12 Db SEb n0 VSS g45n1svt m=1 l=45n w=145n
Mmn11 n0 D VSS VSS g45n1svt m=1 l=45n w=145n
Mmn55 Q qbint VSS VSS g45n1svt m=1 l=45n w=260n
Mmn35 n6 mout VSS VSS g45n1svt m=1 l=45n w=145n
Mmn36 n20 CKNb n6 VSS g45n1svt m=1 l=45n w=145n
Mmn22 RNb RN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn20 CKNb CKN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn10 SEb SE VSS VSS g45n1svt m=1 l=45n w=145n
Mmn25 Db CKNbb n20 VSS g45n1svt m=1 l=45n w=145n
Mmn32 mout n20 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn53 n35 CKNbb n10 VSS g45n1svt m=1 l=45n w=145n
Mmn51 n10 RNb VSS VSS g45n1svt m=1 l=45n w=145n
Mmn40 n35 CKNb mout VSS g45n1svt m=1 l=45n w=145n
Mmn31 mout RNb VSS VSS g45n1svt m=1 l=45n w=145n
Mmn21 CKNbb CKNb VSS VSS g45n1svt m=1 l=45n w=145n
Mmn52 n10 qbint VSS VSS g45n1svt m=1 l=45n w=145n
Mmn45 qbint n35g VSS VSS g45n1svt m=1 l=45n w=145n
MPM3 n35g RTb net234 ExtVDD g45p1svt m=1 l=45n w=215n
MPM2 net234 qbint ExtVDD ExtVDD g45p1svt m=1 l=45n w=215n
MPM1 RTb RT ExtVDD ExtVDD g45p1svt m=1 l=45n w=215n
MPM0 n35g RT n35 ExtVDD g45p1svt m=1 l=45n w=215n
Mmp14 Db SEb n3 VDD g45p1svt m=1 l=45n w=215n
Mmp13 n3 SI VDD VDD g45p1svt m=1 l=45n w=215n
Mmp12 Db SE n1 VDD g45p1svt m=1 l=45n w=215n
Mmp11 n1 D VDD VDD g45p1svt m=1 l=45n w=215n
Mmp52 n11 qbint n9 VDD g45p1svt m=1 l=45n w=215n
Mmp51 n9 RNb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp55 Q qbint VDD VDD g45p1svt m=1 l=45n w=390n
Mmp36 n20 CKNbb n7 VDD g45p1svt m=1 l=45n w=215n
Mmp35 n7 mout VDD VDD g45p1svt m=1 l=45n w=215n
Mmp32 mout n20 n5 VDD g45p1svt m=1 l=45n w=215n
Mmp31 n5 RNb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp22 RNb RN VDD VDD g45p1svt m=1 l=45n w=215n
Mmp20 CKNb CKN VDD VDD g45p1svt m=1 l=45n w=215n
Mmp21 CKNbb CKNb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp45 qbint n35g ExtVDD ExtVDD g45p1svt m=1 l=45n w=215n
Mmp25 n20 CKNb Db VDD g45p1svt m=1 l=45n w=215n
Mmp40 n35 CKNbb mout VDD g45p1svt m=1 l=45n w=215n
Mmp53 n35 CKNb n11 VDD g45p1svt m=1 l=45n w=215n
Mmp10 SEb SE VDD VDD g45p1svt m=1 l=45n w=215n
.ENDS

